2131-11-04 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2131-11-3**] 09:37 AM
 INVASIVE VENTILATION - START [**2131-11-3**] 01:14 PM
 ARTERIAL LINE - START [**2131-11-3**] 05:34 PM
 TEMPORARY PACEMAKER WIRES INSERTED - At [**2131-11-3**] 09:00 PM
 CORDIS/INTRODUCER - START [**2131-11-3**] 09:44 PM
   - pt with clear lungs in the AM, extubated, then developed severe
   wheezing, resp distress, requiring re-intubation. Subsequent CXR with
   increased pulm edema
   - initail cards consult attribute trop leak on arrival to demand
   ischemia in the setting of severe illness
   - Pt subsequently tachycardic to 130s, the ~115, then abruptly CHB with
   conversion of LBBB to RBBB morphology and shift of axis from 20 to 116.
   Tracings reviewed by EP fellow (&[**Doctor Last Name 2830**]). Thought to be profound
   vagal episode with no clear trigger. Change of bundle as her escape
   rhythm is fascicular in origin. Subsequently tachy/brady. Had
   introducer placed in RIJ and temp pacer floated into RV apex (rescue
   rate =60). In the interim, CK's started climbing, likely [**1-29**] to rate.
   Started on esmolol initially with limited effect, but as of this AM,
   pacer dependent at rate of 60.
   - Per EP fellow, strongly consider TEE to exclude ao root abcess
   (ordered)
   - NSTEMI substantial, on heparin drip, ASA, lipitor 80, plavix
   (continued from home); esmolol/pacer for rate control
   - Daughter will bring in [**State **] cardiologist's contact info
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-11-3**] 04:31 AM
   Vancomycin - [**2131-11-3**] 09:17 AM
   Azithromycin - [**2131-11-3**] 09:17 AM
   Ceftriaxone - [**2131-11-3**] 12:19 PM
   Levofloxacin - [**2131-11-3**] 12:20 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Esmolol - 200 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2131-11-3**] 03:29 PM
   Verapamil - [**2131-11-3**] 08:00 PM
   Midazolam (Versed) - [**2131-11-3**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-4**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.9
C (96.7
   HR: 60 (46 - 129) bpm
   BP: 99/51(68) {89/47(62) - 127/71(92)} mmHg
   RR: 20 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 14 (12 - 24)mmHg
   Total In:
                                                                  3,172 mL
                                                                    981 mL
   PO:
   TF:
   IVF:
                                                                  2,172 mL
                                                                    851 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    215 mL
   Urine:
                                                                  1,120 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,752 mL
                                                                    766 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 1,467 (330 - 1,467) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/34/153/21/-4
   Ve: 8.2 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   10.9 g/dL
   174 mg/dL
   1.5 mg/dL
   21 mEq/L
   5.9 mEq/L
   27 mg/dL
   111 mEq/L
   137 mEq/L
   33.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2131-11-3**]  02:54 AM
                             [**2131-11-3**]  03:10 AM
                             [**2131-11-3**]  04:15 PM
                             [**2131-11-3**]  04:20 PM
                             [**2131-11-3**]  05:58 PM
                             [**2131-11-3**]  09:32 PM
                             [**2131-11-3**]  09:45 PM
                             [**2131-11-4**]  05:35 AM
                             [**2131-11-4**]  05:41 AM
   WBC
   9.6
   13.9
   10.5
   Hct
   34.5
   31.5
   33.3
   Plt
   [**Telephone/Fax (3) 9855**]
   Cr
   1.1
   1.5
   TropT
   0.86
   0.84
   1.83
   2.99
   TCO2
   21
   15
   21
   20
   Glucose
   191
   174
   Other labs: PT / PTT / INR:14.7/26.4/1.3, CK / CKMB /
   Troponin-T:699/122/2.99, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: iNTRODUCER AND RV pacer in place. Worsened pulmonary
   edema
   Microbiology: sputum gram + cocci, speciation pending
   ECG: currently RV paced
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yof with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia.
   # Respiratory Distress/ PNA:  Pt initially treated for RLL PNA seen on
   CXR and CTA with vanco, zosyn. Switched to CTX, vanco, levofloxacin
   here. Levoflox subsequently stopped for prolonged QT. Pt extubated and
   re-intubated soon after when she developed severe wheezing and new
   onset pulm edema (suggesting possible cardiogenic source also).
   -- Vanco, CTX, hold on atypical covg for now as azithro would also be
   QT prolonging
   -- blood cultures
   -- continue mechanical ventilation, attempt switch AC to PSV
   -- flu swab
   # Heart Block: Temporary pacer placed overnight with VVI 60.  When Afib
   terminated at 4am, pt became fully paced at 60, underlying rhythm seems
   to be sinus bradycardia currently.
   -- When other more pressing issues have resolved, pt may need permanent
   pacer
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin, IV
   heparin. Currently rate controlled.  Plan is for cath early this week.
   Will attempt to obtain medical records pertaining to CABG anatomy form
   Drs. [**Last Name (STitle) 9863**] and [**Name5 (PTitle) 9864**] ([**Telephone/Fax (1) 9865**], [**Telephone/Fax (1) 9866**])
   - continue to cycle cardiac enzymes q6H
   # Asthma/COPD:  Patient given Solumedrol at OSH.  ABG there consistent
   with acute on chronic COPD.
   -- albuterol/Atrovent MDI PRN
   -- solumedrol 40mg IV daily
   .
   # HTN: meds unknown, will start BB
   # Hypothyroidism: need to determine home synthroid dose
   # Gout: holding allopurinol and colchicine in setting of ARF
   # FEN: replete lytes prn / NPO
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, Left Femoral
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-11-3**] 03:22 AM
   20 Gauge - [**2131-11-3**] 05:01 AM
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-04 08:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, elevated cardiac biomarkers,
   intermittent heart block, Afib RVR, RLL PNA, asthma
   HPI: 76F (h/o asthma with prior intubation, CAD s/p CABG) p/w
   respiratory failure requiring intubation Fri and re-intubation
   yesterday, intermittent heart block (including CHB), intermittent Afib
   RVR, elevated cardiac biomarkers, reduced EF of unknown chronicitiy,
   ?asthma exacerbation and RLL PNA.
   24 Hour Events:
   Intermittent CHB alternating with Afib RVR (HD stable throughout)
   leading to placement of temp wire.
   Esmolol gtt started O/N with continued poor rate control.  Pt converted
   to sinus and HR< 100.
 INVASIVE VENTILATION - STOP [**2131-11-3**] 09:37 AM
 INVASIVE VENTILATION - START [**2131-11-3**] 01:14 PM
 ARTERIAL LINE - START [**2131-11-3**] 05:34 PM
 TEMPORARY PACEMAKER WIRES INSERTED - At [**2131-11-3**] 09:00 PM
 CORDIS/INTRODUCER - START [**2131-11-3**] 09:44 PM
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-11-3**] 04:31 AM
   Vancomycin - [**2131-11-3**] 09:17 AM
   Azithromycin - [**2131-11-3**] 09:17 AM
   Ceftriaxone - [**2131-11-3**] 12:19 PM
   Levofloxacin - [**2131-11-3**] 12:20 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Esmolol - 200 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2131-11-3**] 03:29 PM
   Verapamil - [**2131-11-3**] 08:00 PM
   Midazolam (Versed) - [**2131-11-3**] 08:05 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-4**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.9
C (96.7
   HR: 60 (46 - 129) bpm
   BP: 99/51(68) {89/47(62) - 127/71(92)} mmHg
   RR: 20 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   CVP: 14 (12 - 24)mmHg
   Total In:
                                                                  3,172 mL
                                                                  1,003 mL
   PO:
   TF:
   IVF:
                                                                  2,172 mL
                                                                    873 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    215 mL
   Urine:
                                                                  1,120 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,752 mL
                                                                    788 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 1,467 (330 - 1,467) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/34/153/21/-4
   Ve: 7.5 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: sedated
   Heent: intubated, JVP difficult to assess
   Cor: RRR, +sys murmur, no r/g
   Lung: bilat coarse BSi
   Abd: soft nt/nd +BS
   Ext: no c/c/e. +gout changes
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact),
   Skin:  intact
   Neurologic: sedated, non-focal
   Labs / Radiology
   10.9 g/dL
   210 K/uL
   174 mg/dL
   1.5 mg/dL
   21 mEq/L
   5.9 mEq/L
   27 mg/dL
   111 mEq/L
   137 mEq/L
   33.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2131-11-3**]  02:54 AM
                             [**2131-11-3**]  03:10 AM
                             [**2131-11-3**]  04:15 PM
                             [**2131-11-3**]  04:20 PM
                             [**2131-11-3**]  05:58 PM
                             [**2131-11-3**]  09:32 PM
                             [**2131-11-3**]  09:45 PM
                             [**2131-11-4**]  05:35 AM
                             [**2131-11-4**]  05:41 AM
   WBC
   9.6
   13.9
   10.5
   Hct
   34.5
   31.5
   33.3
   Plt
   [**Telephone/Fax (3) 9855**]
   Cr
   1.1
   1.5
   TropT
   0.86
   0.84
   1.83
   2.99
   TCO2
   21
   15
   21
   20
   Glucose
   191
   174
   Other labs: PT / PTT / INR:14.7/26.4/1.3, CK / CKMB /
   Troponin-T:699/122/2.99, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   76F (h/o asthma with prior intubation, CAD s/p CABG) p/w respiratory
   failure requiring intubation Fri and re-intubation yesterday,
   intermittent heart block (including CHB), intermittent Afib RVR,
   elevated cardiac biomarkers, reduced EF of unknown chronicitiy, ?asthma
   exacerbation and RLL PNA.
   #Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.
   [] Support patient with AC, goal Pa O2 > 65, pCO2 < 50. We will be
   cautious in assessment for extubation given failure to extubation this
   AM.
   #CV/I: elevated cardiac biomarkers to TnI 3. Most likely demand
   ischemia, although ACS cannot be excluded.
   [] cont ASA, statin, plavix
   [] heparin gtt PTT 50-70
   --BB per CV/R plan
   #CV/P: volume overloaded with cardiogenic pulmonary edema
   --Defer ACEI [**1-29**] potential HD instability
   [] diuresis, start lasix 40 IV x1 (poor response to this dose
   yesterday) (goal I/O -1L)
   [] trend lactate
   #CV/R: Intermittent CHB with temp wire, currently paced, intermittent
   Afib
   [] titrate esmolol to HR 60-80 (now off)
   [] will discuss ?amio with cards
   [] cards recs
   [] Lyme
   [] TEE on Monday to r/o aortic root involvement.
   #HyperK.
   [] treat with kayexelate, PM chem. 7
   #Possible Asthma exacerbation
   [] continue solumedrol 40mg qday + scheduled albuterol / atrovent nebs
   #PNA (influenza swab neg), likely CAP. Levaquin d/c
ed [**1-29**] QTc
   prolongation. Azithro not good choice [**1-29**] QTc.
   [] cont vanc / ceftriaxone
   [] Monitor cultures
   #UTI: U/A c/w possible UTI.
   [] send urine cx. Abx as about.
   #AKD: Cr 1.5, monitor. ?poor forward fwd (less likely early ATI
   #FEN: tube feed as tolerated.
   Access: L IJ and remove L femoral line
   Code: Full
   HCP: Daughter (present at bedside)
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:  aline, R temp wire, L femoral
   Multi Lumen - [**2131-11-3**] 03:22 AM
   20 Gauge - [**2131-11-3**] 05:01 AM
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: pepcid
   VAP: bundle intact
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : MICU
   Total time spent:  30mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has needed a temporary wire for bradycardia ( CHB) and rising
   cardiac troponin index. I am concerned regarding RCA occlusion with RV
   function compromise although she has not needed escalating pressors.
   She appears to be ventilating well on current vent settings and we will
   not change until she has completed her cardiac cath in am [**2131-11-5**]. I am
   concerned regarding ensuing renal failure given tenuous HR/ BP issues
   and comorbid medical disease. Her family has been updated and questions
   answered. She will need low dose solumedrol for now.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2131-11-4**] 15:44 ------

2131-11-05 06:29:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 MULTI LUMEN - START [**2131-11-4**] 12:54 PM
 MULTI LUMEN - STOP [**2131-11-4**] 04:00 PM
   -LIJ placed: oozed a lot (soaked the bed) -4 point HCT drop overnight
   -transfusing 1u PRBCs this AM
   -L fem line pulled
   -plan for cath in the AM (NPO)
   -diuresed on lasix gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-11-3**] 04:31 AM
   Azithromycin - [**2131-11-3**] 09:17 AM
   Levofloxacin - [**2131-11-3**] 12:20 PM
   Vancomycin - [**2131-11-4**] 08:22 AM
   Ceftriaxone - [**2131-11-4**] 01:42 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 350 units/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2131-11-4**] 10:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-5**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 63) bpm
   BP: 137/64(88) {97/49(67) - 157/73(308)} mmHg
   RR: 20 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 13 (-9 - 14)mmHg
   Total In:
                                                                  1,910 mL
                                                                    248 mL
   PO:
   TF:
   IVF:
                                                                  1,630 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    760 mL
   Urine:
                                                                  1,570 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                   -512 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: ///21/
   Ve: 8.3 L/min
   Physical Examination
   Gen: Intubated, arousable to voice
   Lungs: CTAB. No wheezes or crackles on anterior exam
   CV: RRR. No murmurs
   Abd: Soft, NT, ND. No masses. No rebound or guarding
   Extremities: WWP 1+ LE edema
   Labs / Radiology
   245 K/uL
   9.0 g/dL
   125 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.8 mEq/L
   33 mg/dL
   109 mEq/L
   139 mEq/L
   27.4 %
   10.3 K/uL
        [image002.jpg] [**11-3**] Sputum gram stain: GPCs in pairs
                             [**2131-11-3**]  04:20 PM
                             [**2131-11-3**]  05:58 PM
                             [**2131-11-3**]  09:32 PM
                             [**2131-11-3**]  09:45 PM
                             [**2131-11-4**]  05:35 AM
                             [**2131-11-4**]  05:41 AM
                             [**2131-11-4**]  11:28 AM
                             [**2131-11-4**]  05:46 PM
                             [**2131-11-4**]  11:54 PM
                             [**2131-11-5**]  05:37 AM
   WBC
   10.5
   10.4
   10.3
   Hct
   33.3
   31.8
   29.0
   27.4
   Plt
   [**Telephone/Fax (3) 9873**]
   Cr
   1.5
   1.7
   TropT
   0.84
   1.83
   2.99
   5.51
   7.30
   TCO2
   15
   21
   20
   Glucose
   174
   125
   Other labs: PT / PTT / INR:13.9/67.1/1.2, CK / CKMB /
   Troponin-T:649/113/7.30, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now with NSTEMI and complete heart block.
   # Respiratory Distress/ PNA:  Pt initially treated for RLL PNA seen on
   CXR and CTA with vanco, zosyn. Switched to CTX, vanco, levofloxacin
   here. Levoflox subsequently stopped for prolonged QT. Pt extubated and
   re-intubated soon after when she developed severe wheezing and new
   onset pulm edema (suggesting possible cardiogenic source also). Flu
   swab negative. Sputum gram stain growing GPCs in pairs.
   -- Day 2 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging
   -- f/u blood cultures
   -- continue diuresis with lasix gtt, with goal I/O
s -1L
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- continue solumedrol 40mg IV daily for asthma/COPD
   -- continue mechanical ventilation, attempt switch AC to PSV
   # Heart Block: Temporary pacer placed overnight with VVI 60.  Patient
   paced at 60 bpm.  [**Month (only) 8**] be secondadry to aortic root abscess.
   -- When other more pressing issues have resolved, pt may need permanent
   pacer
   -- obtain TEE to eval for abscess
   -- lyme serologies pending
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin, IV
   heparin. Currently rate controlled.  Plan is for cath early this week.
   Will attempt to obtain medical records pertaining to CABG anatomy form
   Drs. [**Last Name (STitle) 9863**] and [**Name5 (PTitle) 9864**] ([**Telephone/Fax (1) 9865**], [**Telephone/Fax (1) 9866**]). Cardiac
   enzymes have peaked.
   -to cath lab today
   .
   # HCT drop: secondary to L IJ placement yesterday. Patient heparinized,
   so continues to ooze. Will likely resolve after returns from cath lab
   and heparin gtt is stopped.
   -transfuse 1 unit now
   -Active T&s
   -transfuse to keep HCT>30
   .
   #Acute renal failure: Cr 1.9 up from 1.5 yesterday.  Patient appears
   fluid overloaded, though may be intravascularly depleted. Given brief
   episode of hypotension 2 days prior, this may be ATN.
   -obtain UA, urine lytes
   -check CVP
   -follow chem. 7 [**Hospital1 **]
   -renally dose meds
   -avoid nephrotoxins
   .
   # HTN: meds unknown, speak with outpatient MD
   # Hypothyroidism: need to determine home synthroid dose [**Name6 (MD) 77**] outpatient
   MD
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol
   # FEN: replete lytes prn / NPO
   # PPX: H2 blocker, heparin gtt, bowel regimen
   # ACCESS: PIV, Left IJ
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU

2131-11-05 09:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 y/o, female with history of CAD s/p CABG, HTN, and asthma visiting
   from [**Location (un) 9832**], had intermittent chest pain and dry cough throughout
   the week PTA then developed worsening CP and dyspnea. Went to [**Hospital 17**]
   hospital found to have PNA and hypercapnic respiratory failure, was
   intubated [**11-2**] and started on Abx then transferred here. Had high BNP
   ([**Numeric Identifier 2380**]), elevated trop 0.87, and LBBB on ECG (unknown if old or new).
   Cards consult called thought it was demand ischemia not an ACS, started
   ASA, statins, and B-Blocker, no anticoagulation. Had CTA which revealed
   RLL consolidation>LLL, no PE. Had an elevated Lactic acid 5.1, now
   trending down. Extubated sat am and reintubated later that day.  Then
   developed CHB with fascicular escape and afib with RVR.  Temp wire
   placed. EF 25% on TTE.
   24 Hour Events:
   - L IJ placed with significant oozing - Hct drop 4 points.  1 unit PRBC
   ordered.
   - Lasic gtt started for diuresis
   - NPO for cath this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2131-11-3**] 04:31 AM
   Azithromycin - [**2131-11-3**] 09:17 AM
   Levofloxacin - [**2131-11-3**] 12:20 PM
   Vancomycin - [**2131-11-4**] 08:22 AM
   Ceftriaxone - [**2131-11-4**] 01:42 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 350 units/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2131-11-4**] 10:03 AM
   Other medications:
   ASA, atorvastatin, Vanc, CTX, Methyprednisone 40 IV q8h, Plavix,
   Heparin gtt, Ranitidine, Allopurinol, Lasix gtt at 8, Midaz, Fentanyl,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-5**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 62 (60 - 63) bpm
   BP: 121/56(78) {97/49(67) - 157/73(308)} mmHg
   RR: 20 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   CVP: 8 (-9 - 13)mmHg
   Total In:
                                                                  1,910 mL
                                                                    347 mL
   PO:
   TF:
   IVF:
                                                                  1,630 mL
                                                                    347 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    890 mL
   Urine:
                                                                  1,570 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.37/34/153 ([**11-4**])
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   245 K/uL
   154 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.7 mEq/L
   41 mg/dL
   106 mEq/L
   137 mEq/L
   27.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2131-11-3**]  04:20 PM
                             [**2131-11-3**]  05:58 PM
                             [**2131-11-3**]  09:32 PM
                             [**2131-11-3**]  09:45 PM
                             [**2131-11-4**]  05:35 AM
                             [**2131-11-4**]  05:41 AM
                             [**2131-11-4**]  11:28 AM
                             [**2131-11-4**]  05:46 PM
                             [**2131-11-4**]  11:54 PM
                             [**2131-11-5**]  05:37 AM
   WBC
   10.5
   10.4
   10.3
   Hct
   33.3
   31.8
   29.0
   27.4
   Plt
   [**Telephone/Fax (3) 9873**]
   Cr
   1.5
   1.7
   1.9
   TropT
   0.84
   1.83
   2.99
   5.51
   7.30
   7.21
   TCO2
   15
   21
   20
   Glucose
   174
   125
   154
   Other labs: PT / PTT / INR:13.9/55.4/1.2, CK / CKMB /
   Troponin-T:400/53/7.21, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Microbiology: Sputum GS - GPC pairs [**11-3**]. All other micor negative.
   Assessment and Plan
   76F (h/o asthma with prior intubation, CAD s/p CABG) p/w respiratory
   failure requiring intubation Fri and re-intubation Sat, intermittent
   heart block (including CHB), intermittent Afib RVR, elevated cardiac
   biomarkers, reduced EF of unknown chronicitiy, ?asthma exacerbation and
   RLL PNA.
   #Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.
   - Consider trial of PS later this afternoon if stable after cath. We
   will be cautious in assessment for extubation given failure to
   extubation on Saturday
   - F/U sputum culture.
   - Continue Vanc/CTX (Levaquin d/c
ed [**1-29**] prolonged QTc)
   - Diuresis with lasix gtt
   - Steroids / bronchodilators for asthma
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21. Could be demand
   ischemia or ACS.
   - Cont ASA, statin, plavix
   - Heparin gtt PTT 50-70
   - Cath deferred given ARF
   - Start BB
   #CHB: Intermittent CHB with temp wire, currently paced, intermittent
   Afib
   - Continue with temp pacer
may need permanent pacemaker
   - F/U Lyme Ab
   - TEE tomorrow to r/o aortic root abscess
   # Hct drop: Likely [**1-29**] significant bleeding from LIJ site.  Multiple
   attempts to stop bleeding.
   - D/C heparin per cards
   - Continue with pressure dressing
   - 1 unit PRBC ordered, Hct goal >30
   - [**Hospital1 **] Hcts
   # ARF: Rising creatinine
 could be intrarenal from ATN or prerenal
   from diuresis
   - U/A, urine lytes, FeNa
   - Follow [**Hospital1 **] creatinine on lasix gtt
   - Check CVP
   - Follow potassium given recent hyperkalemia
   #CHF: volume overloaded with cardiogenic pulmonary edema
   - Defer ACEI [**1-29**] potential HD instability
   - Diuresis
   - Lactate trending down
   #UTI: U/A c/w possible UTI.
   - Send urine cx. Abx as above.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Multi Lumen - [**2131-11-4**] 12:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, consider transfer to CCU
   Total time spent: 30 minutes
   Patient is critically ill

2131-11-06 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2131-11-5**] 11:30 AM
 EKG - At [**2131-11-5**] 12:15 PM
   Heparin stopped per cards recs.
   CVL stopped bleeding in the early afternoon.  Patient was given 1uPRBC
   with HCT stable at 30 overnight
   Urine Lytes done which show FeUrea of 26%, Cr yesterday afternoon 2.4,
   Lasix gtt stopped
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2131-11-3**] 09:17 AM
   Levofloxacin - [**2131-11-3**] 12:20 PM
   Vancomycin - [**2131-11-5**] 08:39 AM
   Ceftriaxone - [**2131-11-5**] 11:39 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2131-11-5**] 06:30 PM
   Fentanyl - [**2131-11-5**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-6**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 63 (60 - 76) bpm
   BP: 120/72(90) {92/42(66) - 170/83(111)} mmHg
   RR: 11 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: LBBB (Left Bundle Branch Block)
    CVP: 10 (6 - 18)mmHg
   Total In:
                                                                  2,040 mL
                                                                    164 mL
   PO:
   TF:
   IVF:
                                                                  1,110 mL
                                                                    164 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,555 mL
                                                                    255 mL
   Urine:
                                                                  1,555 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    485 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 527 (369 - 556) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 13 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.36/41/178/22/-1
   Ve: 5.8 L/min
   PaO2 / FiO2: 445
   Physical Examination
   RRR, S1,S2,  trace crackles at bases bilaterally, 1+ edema at ankles.
   Good peripheral pulses, warm extremities. Maintians appropriate eye
   contact, intubated.
   [**Name2 (NI) 358**] / Radiology
   230 K/uL
   10.4 g/dL
   168 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   64 mg/dL
   104 mEq/L
   139 mEq/L
   30.7 %
   21.3 K/uL
        [image002.jpg]
                             [**2131-11-4**]  05:35 AM
                             [**2131-11-4**]  05:41 AM
                             [**2131-11-4**]  11:28 AM
                             [**2131-11-4**]  05:46 PM
                             [**2131-11-4**]  11:54 PM
                             [**2131-11-5**]  05:37 AM
                             [**2131-11-5**]  04:48 PM
                             [**2131-11-5**]  04:58 PM
                            [**2131-11-6**]  12:11 AM
                            [**2131-11-6**]  04:24 AM
   WBC
   10.5
   10.4
   10.3
   21.3
   Hct
   33.3
   31.8
   29.0
   27.4
   27.3
   31.7
   30.7
   Plt
   [**Telephone/Fax (3) 9900**]30
   Cr
   1.5
   1.7
   1.9
   2.4
   2.7
   TropT
   2.99
   5.51
   7.30
   7.21
   7.80
   TCO2
   20
   24
   Glucose
   174
   125
   154
   167
   168
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:13.5/28.6/1.2, CK / CKMB /
   Troponin-T:276/26/7.80, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now s/p NSTEMI and temp pacer for episode of
   complete heart block.
   # Respiratory Distress/ PNA:  Pt initially treated for RLL PNA seen on
   CXR and CTA with vanco, zosyn. Switched to CTX, vanco, levofloxacin
   here. Levoflox subsequently stopped for prolonged QT. Pt extubated and
   re-intubated soon after when she developed severe wheezing and new
   onset pulm edema (suggesting possible cardiogenic source also). Flu
   swab negative. Sputum gram stain growing GPCs in pairs, but no culture
   or speciation.
   -- Day 3 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging, based on CTA appearance, low suspicion for
   atyicals
   -- f/u blood cultures
   -- hold diuresis given prerenal FEurea and CVP 10.
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- continue solumedrol 40mg IV daily for asthma/COPD (one more day)
   -- SBT and extubation today, will use CPAP if pulmonary edema returns
   as it did at the time of last extubation
   # Leukocytosis: Marked increase. WBC had been 10 for 4 days, now 20. It
   would be surprising if this were from her PNA as respiratory status and
   CXR improved. Strong suspicion for CDIFF: cdiff tox ordered and po
   vanco started empirically. Will trend WBC. Re-culture blood.
   # Heart Block: Temporary pacer placed with VVI 60.  Patient paced at 60
   bpm.  [**Month (only) 8**] be secondadry to aortic root abscess.
   -- When other more pressing issues have resolved, pt may need permanent
   pacer
   -- TEE to eval for abscess today
   -- lyme serologies negative
   -- pacer rate decreased to 50 after discussion with EP fellow, avoiding
   AV nodal blocking agents per their recommendation; underlying rthyhm is
   sinus in mid 50s with PR 180.
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin;
   IV heparin is off. Currently rate controlled.  Plan for cath is on hold
   given worsening renal fxn. Cardiac enzymes have peaked.
   .
   # HCT drop: secondary L IJ oozing which has stopped
   -Active T&s
   -transfuse to keep HCT>25
   -[**Hospital1 **] hct
   .
   #Acute renal failure: Prerenal by FE urea, but likely some contribution
   from CTA contrast.  Hollding on diuresis as goal CVP achieved.
   -follow chem. 7 [**Hospital1 **]
   -renally dose meds
   -avoid nephrotoxins
   .
   # Hypothyroidism: synthroid dose =137mcg
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol, renally dosed
   # FEN: replete lytes prn / NPO
   # PPX: H2 blocker, sqh, bowel regimen
   # ACCESS: PIV, Left IJ
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Multi Lumen - [**2131-11-4**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-06 10:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CL stopped bleeding with d/c of heparin gtt
   - FeUrea 26%, Creatinine increased to 2.7 this am.  Lasix gtt d/c'ed.
   - CVP between 6 and 18
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2131-11-3**] 12:20 PM
   Vancomycin - [**2131-11-5**] 08:39 AM
   Ceftriaxone - [**2131-11-5**] 11:39 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2131-11-5**] 06:30 PM
   Fentanyl - [**2131-11-5**] 06:30 PM
   Other medications:
   Metoprolol; ASA; Lipitor; Methylprednisone; Plavix; Ranitidine;
   Allopurinol;
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-6**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 63 (60 - 76) bpm
   BP: 151/78(104) {92/42(66) - 170/83(111)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   CVP: 14 (5 - 18)mmHg
   Total In:
                                                                  2,040 mL
                                                                    226 mL
   PO:
   TF:
   IVF:
                                                                  1,110 mL
                                                                    226 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,555 mL
                                                                    615 mL
   Urine:
                                                                  1,555 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    485 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 507 (369 - 556) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.36/41/178/22/-1
   Ve: 5.4 L/min
   PaO2 / FiO2: 445
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   230 K/uL
   168 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   64 mg/dL
   104 mEq/L
   139 mEq/L
   30.7 %
   21.3 K/uL
        [image002.jpg]
                             [**2131-11-4**]  05:35 AM
                             [**2131-11-4**]  05:41 AM
                             [**2131-11-4**]  11:28 AM
                             [**2131-11-4**]  05:46 PM
                             [**2131-11-4**]  11:54 PM
                             [**2131-11-5**]  05:37 AM
                             [**2131-11-5**]  04:48 PM
                             [**2131-11-5**]  04:58 PM
                            [**2131-11-6**]  12:11 AM
                            [**2131-11-6**]  04:24 AM
   WBC
   10.5
   10.4
   10.3
   21.3
   Hct
   33.3
   31.8
   29.0
   27.4
   27.3
   31.7
   30.7
   Plt
   [**Telephone/Fax (3) 9900**]30
   Cr
   1.5
   1.7
   1.9
   2.4
   2.7
   TropT
   2.99
   5.51
   7.30
   7.21
   7.80
   TCO2
   20
   24
   Glucose
   174
   125
   154
   167
   168
   Other labs: PT / PTT / INR:13.5/28.6/1.2, CK / CKMB /
   Troponin-T:276/26/7.80, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:7.8 mg/dL
   Imaging: CXR - Persistent RLL opacities.  Improving pulmonary edema.
   ET tube at 5.5 cm.
   Microbiology: Lyme negative; Flu negative; Sputum culture negative; U/A
   negative.
   Assessment and Plan
   76F with h/o asthma with prior intubation and CAD s/p CABG p/w
   respiratory failure requiring intubation [**11-2**] and
   extubation/re-intubation 11/7t, intermittent heart block (including
   CHB), intermittent Afib RVR, elevated cardiac biomarkers, reduced EF of
   unknown chronicity,possible asthma exacerbation and RLL PNA.
    #Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.
   - Doing well on PS, RSBI 43. Plan to extubate after TEE to CPAP.
   - Continue Vanc/CTX
   - Steroids / bronchodilators for asthma
   # Elevated WBC count: Went from 10 to 23. U/A bland yesterday. CXR
   unchanged.  Afebrile.  Benign abdominal exam.  [**Month (only) 8**] be a component of
   reaction to steroids.
   - Check c. Diff and empirically cover with PO vanc.
   - Repeat blood cultures
   # ARF: Rising creatinine
 likely intrarenal from contrast die and
   prerenal from diuresis
   - Follow [**Hospital1 **] creatinine
   - Lasix gtt d/c
   - Renal dose meds
   - If persistently elevated, may try gentle IVF later this afternoon
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21, now trending down.
   Could be demand ischemia or ACS.
   - Cont ASA, statin, plavix, BB
   - Cath deferred given ARF and ongoing medical issues
   #CHB: Intermittent CHB with temp wire, intermittently paced,
   intermittent Afib
   - Continue with temp pacer (ask cards to turn rate down to 50)
may need
   permanent pacemaker
   - TEE today to r/o aortic root abscess
   # Hct drop: Likely [**1-29**] significant bleeding from LIJ site.  No stopped
   and Hct stable.
   - Hct goal >30
   - [**Hospital1 **] Hcts
   #CHF: volume overloaded with cardiogenic pulmonary edema
   - Defer ACEI [**1-29**] potential HD instability
   - Hold diuresis given ARF
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Multi Lumen - [**2131-11-4**] 12:54 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:  updated her daughter at the bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2131-11-07 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2131-11-6**] 12:00 PM
 BLOOD CULTURED - At [**2131-11-6**] 12:30 PM
   x2 R radial laine and LIJ
 INVASIVE VENTILATION - STOP [**2131-11-6**] 03:45 PM
 STOOL CULTURE - At [**2131-11-7**] 12:25 AM
   - D/w EP and decreased vvi to 45bpm
   - TEE without endocarditis or root abcess, 1+AR and [**12-29**]+MR
   - CVP 12-14, pre-renal FEurea, held off on giving fluid for renal
   failure
   - pt extubated, tolerating clears
   - po vanco started empirically for WBC: 10 -->20
   - Given 1 U pRBC as Hct 30 --> 24.5 w/o clear source
   -L IJ removed [**1-29**] persistent oozing
   -patient went into afib, with rate in 100s-120s
given IV metoprolol
   and increased po metoprolol to 50mg po tid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-6**] 12:31 PM
   Vancomycin - [**2131-11-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-11-7**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-7**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 60 (54 - 80) bpm
   BP: 102/52(76) {101/45(72) - 240/235(238)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 62 Inch
    CVP: -1 (-1 - 17)mmHg
   Total In:
                                                                    562 mL
                                                                    145 mL
   PO:
   TF:
   IVF:
                                                                    562 mL
                                                                    129 mL
   Blood products:
                                                                     17 mL
   Total out:
                                                                  1,440 mL
                                                                    370 mL
   Urine:
                                                                  1,440 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -878 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 250 (250 - 507) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 3.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   176 K/uL
   8.3 g/dL
   143 mg/dL
   1.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   60 mg/dL
   108 mEq/L
   143 mEq/L
   24.5 %
   14.8 K/uL
        [image002.jpg]
   [**10-28**] C diff pending
   [**11-6**] Blood cultures x2 pending
   [**11-5**] Urine culture negative
   [**11-4**] Lyme serology negative
                             [**2131-11-4**]  11:54 PM
                             [**2131-11-5**]  05:37 AM
                             [**2131-11-5**]  04:48 PM
                             [**2131-11-5**]  04:58 PM
                            [**2131-11-6**]  12:11 AM
                            [**2131-11-6**]  04:24 AM
                            [**2131-11-6**]  05:35 PM
                            [**2131-11-6**]  07:42 PM
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
   WBC
   10.3
   21.3
   17.0
   14.8
   Hct
   29.0
   27.4
   27.3
   31.7
   30.7
   26.5
   25.4
   25.0
   24.5
   Plt
   245
   230
   176
   Cr
   1.9
   2.4
   2.7
   2.4
   1.9
   TropT
   7.21
   7.80
   5.49
   TCO2
   24
   Glucose
   154
   167
   168
   161
   143
   Other labs: PT / PTT / INR:14.1/39.3/1.2, CK / CKMB /
   Troponin-T:190/14/5.49, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now s/p NSTEMI and temp pacer for episode of
   complete heart block.
   # Respiratory Distress/ PNA:  Pt initially treated for RLL PNA seen on
   CXR and CTA with vanco, zosyn. Switched to CTX, vanco, levofloxacin
   here. Levoflox subsequently stopped for prolonged QT. Pt extubated and
   re-intubated soon after when she developed severe wheezing and new
   onset pulm edema (suggesting possible cardiogenic source also). Flu
   swab negative. Sputum gram stain growing GPCs in pairs, but no culture
   or speciation. Currently successfully extubated
   -- Day 4 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging, based on CTA appearance, low suspicion for
   atyicals
   -- f/u blood cultures
   -- hold diuresis given prerenal FEurea and CVP 10.
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- continue solumedrol 40mg IV daily for asthma/COPD (last day)
   -- consider CPAP if pulmonary edema returns as it did at the time of
   last extubation
   # Leukocytosis: Marked increase. WBC had been 10 for 4 days, up to 20,
   now down to 14. It would be surprising if this were from her PNA as
   respiratory status and CXR improved. Strong suspicion for CDIFF: cdiff
   tox ordered and po vanco started empirically. Will trend WBC.
   Re-culture blood.
   -f/u C diff toxin
   -continue po vancomycin
   # Heart Block: Temporary pacer placed with VVI 60.  Patient paced at 45
   bpm.   TEE negative for abscess. Lyme serology negative.  This evening,
   patient went into Afib with RVR. Currently asymptomatic.
   -- When other more pressing issues have resolved, pt may need permanent
   pacer
   -- pacer rate decreased to 45 after discussion with EP fellow, avoiding
   AV nodal blocking agents per their recommendation; underlying rthyhm is
   sinus in mid 50s with PR 180.
   -- increased metoprolol to 50mg po tid
consider further increase in
   the morning if BP tolerates
   -- IV Metoprolol for HR>110
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin;
   IV heparin is off. Currently rate controlled.  Plan for cath is on hold
   given worsening renal fxn. Cardiac enzymes have peaked.
   -Cardiology may cath on Friday if renal function returns to normal
   .
   # HCT drop: secondary L IJ oozing which has stopped. D/c-ed L IJ.
   Guaiac negative. Hemolysis labs negative.
   -Active T&s
   -transfuse to keep HCT>25
   -[**Hospital1 **] hct
   .
   #Acute renal failure: Prerenal by FE urea, but likely some contribution
   from CTA contrast.  Hollding on diuresis as goal CVP achieved ([**10-8**]).
   -follow chem. 7 [**Hospital1 **]
   -renally dose meds
   -avoid nephrotoxins
   .
   # Hypothyroidism: synthroid dose =137mcg
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol, renally dosed
   # FEN: replete lytes prn / Cardiac diet
   # PPX: H2 blocker, sqh, bowel regimen
   # ACCESS: right introducer, Left IJ, a-line
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Multi Lumen - [**2131-11-4**] 12:54 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer:  h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2131-11-07 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TEE - no vegetations or abscesses
   - EP decreased pacer rate to 50, so now in SR
   - Extubated without event
   - Hct decreased from 30 to 25 - given 1 U PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-6**] 12:31 PM
   Vancomycin - [**2131-11-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-11-7**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-7**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 65 (54 - 80) bpm
   BP: 147/128(137) {101/45(72) - 240/235(238)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: -1 (-1 - 17)mmHg
   Total In:
                                                                    562 mL
                                                                    440 mL
   PO:
   TF:
   IVF:
                                                                    562 mL
                                                                    163 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  1,440 mL
                                                                    370 mL
   Urine:
                                                                  1,440 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -878 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 250 (250 - 501) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 3.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   176 K/uL
   143 mg/dL
   1.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   60 mg/dL
   108 mEq/L
   143 mEq/L
   24.5 %
   14.8 K/uL
        [image002.jpg]
                             [**2131-11-4**]  11:54 PM
                             [**2131-11-5**]  05:37 AM
                             [**2131-11-5**]  04:48 PM
                             [**2131-11-5**]  04:58 PM
                            [**2131-11-6**]  12:11 AM
                            [**2131-11-6**]  04:24 AM
                            [**2131-11-6**]  05:35 PM
                            [**2131-11-6**]  07:42 PM
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
   WBC
   10.3
   21.3
   17.0
   14.8
   Hct
   29.0
   27.4
   27.3
   31.7
   30.7
   26.5
   25.4
   25.0
   24.5
   Plt
   245
   230
   176
   Cr
   1.9
   2.4
   2.7
   2.4
   1.9
   TropT
   7.21
   7.80
   5.49
   TCO2
   24
   Glucose
   154
   167
   168
   161
   143
   Other labs: PT / PTT / INR:14.1/39.3/1.2, CK / CKMB /
   Troponin-T:190/14/5.49, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:5.9 mg/dL
   Imaging: TTE - No vegetations or abscesses.  CXR - Improving
   infiltrates, enlarged cardiac shadow, bilateral effusions
   Microbiology: No new data.
   Assessment and Plan
   76F with h/o asthma with prior intubation and CAD s/p CABG p/w
   respiratory failure requiring intubation [**11-2**] and
   extubation/re-intubation 11/7t, intermittent heart block (including
   CHB), intermittent Afib RVR, elevated cardiac biomarkers, reduced EF of
   unknown chronicity,possible asthma exacerbation and RLL PNA.
   # Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.
   - Doing well on PS, RSBI 43. Plan to extubate after TEE to CPAP.
   - Continue Vanc/CTX
   - Steroids / bronchodilators for asthma
   # Elevated WBC count: Went from 10 to 23. U/A bland yesterday. CXR
   unchanged.  Afebrile.  Benign abdominal exam.  [**Month (only) 8**] be a component of
   reaction to steroids.
   - Check c. Diff and empirically cover with PO vanc.
   - Repeat blood cultures
   # ARF: Rising creatinine
 likely intrarenal from contrast die and
   prerenal from diuresis
   - Follow [**Hospital1 **] creatinine
   - Lasix gtt d/c
   - Renal dose meds
   - If persistently elevated, may try gentle IVF later this afternoon
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21, now trending down.
   Could be demand ischemia or ACS.
   - Cont ASA, statin, plavix, BB
   - Cath deferred given ARF and ongoing medical issues
   #CHB: Intermittent CHB with temp wire, intermittently paced,
   intermittent Afib
   - Continue with temp pacer (ask cards to turn rate down to 50)
may need
   permanent pacemaker
   - TEE today to r/o aortic root abscess
   # Hct drop: Likely [**1-29**] significant bleeding from LIJ site.  No stopped
   and Hct stable.
   - Hct goal >30
   - [**Hospital1 **] Hcts
   # CHF: volume overloaded with cardiogenic pulmonary edema
   - Defer ACEI [**1-29**] potential HD instability
   - Hold diuresis given ARF
   ICU Care
   Nutrition:
   Comments: Advance as tolerated.  Swallow evaluation.
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-11-3**] 05:34 PM
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   Multi Lumen - [**2131-11-4**] 12:54 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2131-11-08 06:26:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 STOOL CULTURE - At [**2131-11-7**] 09:30 AM
 EKG - At [**2131-11-7**] 10:00 AM
 ARTERIAL LINE - STOP [**2131-11-7**] 11:22 AM
 EKG - At [**2131-11-7**] 12:00 PM
 MULTI LUMEN - STOP [**2131-11-7**] 03:04 PM
   Decreased VVI to 45
   D/c-ed L IJ b/c of oozing
   Cards would consider cath by Friday if renal function continues to
   improve
   C diff still pending
   Went into Afib with rate in 100-120s. Gave 5 of IV metoprolol x3.
   Increased po metoprolol to 50mg po tid. EP and Cards okay with this.
   -HR down to 60s by evening, so decreased dose to 37.5mg po tid
   HCT dropped to 24.7 from 29, gave 1u PRBCs
   Guaiac positive
   C diff negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-6**] 12:31 PM
   Vancomycin - [**2131-11-8**] 01:57 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-11-7**] 09:31 AM
   Metoprolol - [**2131-11-7**] 03:50 PM
   Heparin Sodium (Prophylaxis) - [**2131-11-7**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-8**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 65 (57 - 109) bpm
   BP: 135/47(71) {115/41(63) - 182/138(107)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 10 (7 - 10)mmHg
   Total In:
                                                                  1,127 mL
                                                                    264 mL
   PO:
                                                                    540 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    310 mL
                                                                     64 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  1,145 mL
                                                                    250 mL
   Urine:
                                                                  1,145 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -18 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   8.5 g/dL
   108 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   49 mg/dL
   110 mEq/L
   143 mEq/L
   24.7 %
   15.0 K/uL
        [image002.jpg]
                            [**2131-11-6**]  04:24 AM
                            [**2131-11-6**]  05:35 PM
                            [**2131-11-6**]  07:42 PM
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
   WBC
   21.3
   17.0
   14.8
   15.0
   Hct
   30.7
   26.5
   25.4
   25.0
   24.5
   29.3
   29.5
   27.0
   24.7
   Plt
   230
   176
   180
   Cr
   2.7
   2.4
   1.9
   1.4
   TropT
   5.49
   2.85
   Glucose
   168
   161
   143
   108
   Other labs: PT / PTT / INR:14.1/39.3/1.2, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now s/p NSTEMI and temp pacer for episode of
   complete heart block.
   # Respiratory Distress/ PNA:  Pt initially treated for RLL PNA seen on
   CXR and CTA with vanco, zosyn. Switched to CTX, vanco, levofloxacin
   here. Levoflox subsequently stopped for prolonged QT. Pt extubated and
   re-intubated soon after when she developed severe wheezing and new
   onset pulm edema (suggesting possible cardiogenic source also). Flu
   swab negative. Sputum gram stain growing GPCs in pairs, but no culture
   or speciation. Currently successfully extubated
   -- Day 4 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging, based on CTA appearance, low suspicion for
   atyicals
   -- f/u blood cultures
   -- hold diuresis given prerenal FEurea and CVP 10.
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- continue solumedrol 40mg IV daily for asthma/COPD (last day)
   -- consider CPAP if pulmonary edema returns as it did at the time of
   last extubation
   # Leukocytosis: Marked increase. WBC had been 10 for 4 days, up to 20,
   now down to 14. It would be surprising if this were from her PNA as
   respiratory status and CXR improved. Strong suspicion for CDIFF: cdiff
   tox ordered and po vanco started empirically. Will trend WBC.
   Re-culture blood.
   -f/u C diff toxin
   -continue po vancomycin
   # Heart Block: Temporary pacer placed with VVI 60.  Patient paced at 45
   bpm.   TEE negative for abscess. Lyme serology negative.  This evening,
   patient went into Afib with RVR. Currently asymptomatic.
   -- When other more pressing issues have resolved, pt may need permanent
   pacer
   -- pacer rate decreased to 45 after discussion with EP fellow, avoiding
   AV nodal blocking agents per their recommendation; underlying rthyhm is
   sinus in mid 50s with PR 180.
   -- increased metoprolol to 50mg po tid
consider further increase in
   the morning if BP tolerates
   -- IV Metoprolol for HR>110
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin;
   IV heparin is off. Currently rate controlled.  Plan for cath is on hold
   given worsening renal fxn. Cardiac enzymes have peaked.
   -Cardiology may cath on Friday if renal function returns to normal
   .
   # HCT drop: secondary L IJ oozing which has stopped. D/c-ed L IJ.
   Guaiac negative. Hemolysis labs negative.
   -Active T&s
   -transfuse to keep HCT>25
   -[**Hospital1 **] hct
   .
   #Acute renal failure: Prerenal by FE urea, but likely some contribution
   from CTA contrast.  Hollding on diuresis as goal CVP achieved ([**10-8**]).
   -follow chem. 7 [**Hospital1 **]
   -renally dose meds
   -avoid nephrotoxins
   .
   # Hypothyroidism: synthroid dose =137mcg
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol, renally dosed
   # FEN: replete lytes prn / Cardiac diet
   # PPX: H2 blocker, sqh, bowel regimen
   # ACCESS: right introducer, Left IJ, a-line
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-08 09:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - A fib with RVR requiring increased BB
   - Temp rate pacer turned down to 40
   - LIJ removed for continued oozing
   - Hct drop this am requiring 1 unit PRBC, stool occult positive
   - Cards considering cath on Friday
   - C. diff negative
 PO vanc d/c
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-6**] 12:31 PM
   Vancomycin - [**2131-11-8**] 01:57 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2131-11-7**] 09:31 AM
   Metoprolol - [**2131-11-7**] 03:50 PM
   Heparin Sodium (Prophylaxis) - [**2131-11-7**] 08:41 PM
   Other medications:
   Vanco, Asa, Lipitor, CTX, Plavix, SQ heparin, Allopurinol, Zantac,
   Synthroid, Atrovent MDI, Amlodipine, Lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-8**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96
   HR: 63 (57 - 109) bpm
   BP: 129/45(66) {115/41(63) - 182/138(107)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
   CVP: 10 (7 - 10)mmHg
   Total In:
                                                                  1,127 mL
                                                                    521 mL
   PO:
                                                                    540 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    310 mL
                                                                     91 mL
   Blood products:
                                                                    277 mL
                                                                     30 mL
   Total out:
                                                                  1,145 mL
                                                                    385 mL
   Urine:
                                                                  1,145 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -18 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: bibasilar crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   180 K/uL
   108 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   49 mg/dL
   110 mEq/L
   143 mEq/L
   24.7 %
   15.0 K/uL
        [image002.jpg]
                            [**2131-11-6**]  04:24 AM
                            [**2131-11-6**]  05:35 PM
                            [**2131-11-6**]  07:42 PM
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
   WBC
   21.3
   17.0
   14.8
   15.0
   Hct
   30.7
   26.5
   25.4
   25.0
   24.5
   29.3
   29.5
   27.0
   24.7
   Plt
   230
   176
   180
   Cr
   2.7
   2.4
   1.9
   1.4
   TropT
   5.49
   2.85
   Glucose
   168
   161
   143
   108
   Other labs: PT / PTT / INR:14.1/39.3/1.2, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR -
   Microbiology: C. diff negative; all other cultures NGTD
   Assessment and Plan
   76F with h/o asthma with prior intubation and CAD s/p CABG p/w
   respiratory failure requiring intubation (now extubated), intermittent
   heart block (including CHB) requiring pacing wire, intermittent Afib
   RVR, elevated cardiac biomarkers, reduced EF of unknown chronicity,
   possible asthma exacerbation and RLL PNA.
   # Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.   Now extubated and improving.
   - Continue Vanc/CTX x 8 days
   - Wean O2
   - Atrovent for asthma. Holding albuterol given RVR
   #Arrhythmias: Intermittent CHB with temp wire, intermittently paced,
   intermittent Afib.
   - Continue with temp pacer at 40
may need permanent pacemaker, but
   would defer until WBC count nl
   - Continue lopressor for a fib
   # Elevated WBC count: Went from 10 to 23, now back down to 15. U/A
   bland. CXR unchanged.  Afebrile.  Benign abdominal exam.  C .diff
   negative.
   - Repeat blood cultures pending
   # ARF: Likely prerenal from diuresis and loss of atrial kick.  Now
   improving.
   - Follow creatinine
   - Mucomyst prior to cath
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21, now trending down.
   Could be demand ischemia or ACS.
   - Cont ASA, statin, plavix, BB
   - Cath deferred given ARF and ongoing medical issues, now may get cath
   tomorrow
   # Hct drop: No identifiable source.  S/p 1 unit PRBC yesterday am and
   again today.  LIJ d/c
ed for ongoing oozing.  Stools occult +, but
   brown.  Hemolysis labs negative.
   - Hct goal >30
   - [**Hospital1 **] Hcts
   - On PPI
   # CHF: mild volume overloaded with cardiogenic pulmonary edema
   - Start ACE-I now that ARF improving (wean off CCB), continue BB
   - Will follow with autodiuresis today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, may transition to Cardiology service
   Total time spent: 35minutes

2131-11-09 07:40:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   HCT stable overnight
   Cards has no plan to cath today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-11-8**] 12:04 PM
   Ceftriaxone - [**2131-11-8**] 01:11 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-11-9**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2131-11-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-9**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 76 (57 - 78) bpm
   BP: 133/43(66) {117/41(61) - 145/465(84)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,905 mL
                                                                    312 mL
   PO:
                                                                  1,040 mL
                                                                    225 mL
   TF:
   IVF:
                                                                    490 mL
                                                                     87 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    905 mL
                                                                    385 mL
   Urine:
                                                                    905 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   9.4 g/dL
   118 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.0 mEq/L
   37 mg/dL
   108 mEq/L
   142 mEq/L
   27.8 %
   11.8 K/uL
        [image002.jpg]
                            [**2131-11-6**]  07:42 PM
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
   WBC
   14.8
   15.0
   11.8
   Hct
   25.4
   25.0
   24.5
   29.3
   29.5
   27.0
   24.7
   30.4
   27.8
   Plt
   176
   180
   143
   Cr
   1.9
   1.4
   1.2
   1.2
   TropT
   2.85
   Glucose
   143
   108
   123
   118
   Other labs: PT / PTT / INR:13.1/72.3/1.1, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now s/p NSTEMI and temp pacer for episode of
   complete heart block.
   # Respiratory Distress/ PNA:  Pt initially treated for RLL PNA seen on
   CXR and CTA with vanco, zosyn. Switched to CTX, vanco, levofloxacin
   here. Levoflox subsequently stopped for prolonged QT. Pt extubated and
   re-intubated soon after when she developed severe wheezing and new
   onset pulm edema (suggesting possible cardiogenic source also). Flu
   swab negative. Sputum gram stain growing GPCs in pairs, but no culture
   or speciation. Currently successfully extubated
   -- Day 5 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging, based on CTA appearance, low suspicion for
   atyicals
   -- f/u blood cultures
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- consider CPAP if pulmonary edema returns as it did at the time of
   last extubation
   # Leukocytosis: Marked increase. WBC had been 10 for 4 days, up to 20,
   now down to 14. It would be surprising if this were from her PNA as
   respiratory status and CXR improved. Strong suspicion for CDIFF: cdiff
   tox ordered and po vanco started empirically. Will trend WBC.
   - cont to monitor
   # Heart Block: Temporary pacer placed with VVI 60.  Patient paced at 45
   bpm.   TEE negative for abscess. Lyme serology negative.  Per EP, will
   likely need permanent pacer, but needs c.cath first
   -- pacer rate decreased to 45 after discussion with EP fellow, avoiding
   AV nodal blocking agents per their recommendation; underlying rthyhm is
   sinus in mid 50s with PR 180.
   -- cont Metoprolol 37.5mg PO TID
   -- IV Metoprolol for HR>110
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin;
   IV heparin is off. Currently rate controlled.  Plan for cath is on
   hold, possibly [**Hospital 501**].
   -Cardiology may cath on [**Last Name (LF) 501**], [**First Name3 (LF) 124**] f/u recs
   .
   # HCT drop: likely 2/2 L IJ oozing which has stopped. D/c-ed L IJ
   yesterday, and HCT slightly low again this morning, possibly lab
   variability as there are no other signs of bleeding. Guaiac negative.
   Hemolysis labs negative.  HCT now 30 s/p transfusion
   -Active T&s
   -transfuse to keep HCT>25
   -[**Hospital1 **] hct
   .
   #Acute renal failure: continues to improve, Cr currently 1.2
   -follow chem. 7 [**Hospital1 **]
   -renally dose meds
   -avoid nephrotoxins
   .
   # Hypothyroidism: synthroid dose =137mcg
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol, renally dosed
   # FEN: replete lytes prn / Cardiac diet
   # PPX: H2 blocker, sqh, bowel regimen
   # ACCESS: right introducer, Left IJ, a-line
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-09 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Cards: No plan for cath today
   - Hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-8**] 01:11 PM
   Vancomycin - [**2131-11-9**] 09:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-11-9**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2131-11-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-9**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 64 (57 - 89) bpm
   BP: 131/62(77) {117/41(61) - 145/67(84)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 70.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,905 mL
                                                                    586 mL
   PO:
                                                                  1,040 mL
                                                                    275 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    311 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    905 mL
                                                                    515 mL
   Urine:
                                                                    905 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   143 K/uL
   118 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.0 mEq/L
   37 mg/dL
   108 mEq/L
   142 mEq/L
   27.8 %
   11.8 K/uL
        [image002.jpg]
                            [**2131-11-6**]  07:42 PM
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
   WBC
   14.8
   15.0
   11.8
   Hct
   25.4
   25.0
   24.5
   29.3
   29.5
   27.0
   24.7
   30.4
   27.8
   Plt
   176
   180
   143
   Cr
   1.9
   1.4
   1.2
   1.2
   TropT
   2.85
   Glucose
   143
   108
   123
   118
   Other labs: PT / PTT / INR:13.1/72.3/1.1, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.5
   mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   76F with h/o asthma with prior intubation and CAD s/p CABG p/w
   respiratory failure requiring intubation (now extubated), intermittent
   heart block (including CHB) requiring pacing wire, intermittent Afib
   RVR, elevated cardiac biomarkers, reduced EF of unknown chronicity,
   possible asthma exacerbation and RLL PNA.
   # Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.   Now extubated and improving.
   - Continue Vanc/CTX x 8 days
   - Wean O2
   - Atrovent for asthma. Holding albuterol given RVR
   #Arrhythmias: Intermittent CHB with temp wire, intermittently paced,
   intermittent Afib.
   - Continue with temp pacer at 40
may need permanent pacemaker, but
   would defer until WBC count nl
   - Continue lopressor for a fib
   # Elevated WBC count: Went from 10 to 23, now back down to 15. U/A
   bland. CXR unchanged.  Afebrile.  Benign abdominal exam.  C .diff
   negative.
   - Repeat blood cultures pending
   # ARF: Likely prerenal from diuresis and loss of atrial kick.  Now
   improving.
   - Follow creatinine
   - Mucomyst prior to cath
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21, now trending down.
   Could be demand ischemia or ACS.
   - Cont ASA, statin, plavix, BB
   - Cath deferred given ARF and ongoing medical issues, now may get cath
   tomorrow
   # Hct drop: No identifiable source.  S/p 1 unit PRBC yesterday am and
   again today.  LIJ d/c
ed for ongoing oozing.  Stools occult +, but
   brown.  Hemolysis labs negative.
   - Hct goal >30
   - [**Hospital1 **] Hcts
   - On PPI
   # CHF: mild volume overloaded with cardiogenic pulmonary edema
   - Start ACE-I now that ARF improving (wean off CCB), continue BB
   - Will follow with autodiuresis today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 18 minutes

2131-11-10 07:25:00 Physician Attending Progress Note
Chief Complaint: PNA, arrythmias
   HPI:
   24 Hour Events:
   -- metoprolol increased for Rate control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-11-9**] 09:14 AM
   Ceftriaxone - [**2131-11-9**] 12:47 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-11-9**] 07:19 PM
   Pantoprazole (Protonix) - [**2131-11-10**] 12:20 AM
   Other medications:
   Vancomycin, Ceftriaxone, [**Last Name (LF) 3968**], [**First Name3 (LF) 119**], Plavix, Synthroid, Atrovent,
   metoprolol, captopril
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-10**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 77 (64 - 92) bpm
   BP: 148/62(73) {111/44(62) - 148/69(81)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 70.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,226 mL
                                                                     10 mL
   PO:
                                                                    855 mL
             TF:
   IVF:
                                                                    371 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    280 mL
   Urine:
                                                                  1,055 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    171 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, sitting in a chair
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: decreased
   at bases, soft crackles at B bases : )
   Abdominal: Soft, Non-tender, Bowel sounds present, non-distended
   Skin:  Not assessed
   Neurologic: A&Ox3, moves all extremities
   Labs / Radiology
   9.6 g/dL
   144 K/uL
   123 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   27.9 %
   14.6 K/uL
        [image002.jpg]
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
   WBC
   14.8
   15.0
   11.8
   14.6
   Hct
   25.0
   24.5
   29.3
   29.5
   27.0
   24.7
   30.4
   27.8
   27.9
   Plt
   176
   180
   143
   144
   Cr
   1.9
   1.4
   1.2
   1.2
   1.1
   TropT
   2.85
   Glucose
   143
   108
   123
   118
   123
   Other labs: PT / PTT / INR:12.9/71.6/1.1, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Lyme negative
   Assessment and Plan
   76F with h/o asthma with prior intubation and CAD s/p CABG p/w
   respiratory failure requiring intubation (now extubated), intermittent
   heart block (including CHB) requiring pacing wire, intermittent Afib
   RVR, elevated cardiac biomarkers, reduced EF of unknown chronicity,
   possible asthma exacerbation and RLL PNA.
   # Leukocytosis: Unclear etiology, peak WBC 20, now [**12-10**].  Abx as
   below.
   - Repeat UA/Ucx, CXR, sputum
   - D/c foley
   #Arrhythmias: Intermittent CHB with temp wire, intermittently paced,
   intermittent Afib.
   - Continue with temp pacer at 40 likely needs permanent pacemaker, but
   EP is deferring until WBC count nl
   - Continue lopressor for a fib, goal HR is ~60, although cards would
   prefer to minimize pacing in case temp wire needs to be d/c
   - Discuss transfer to CCU as only ICU indication is pacing wire.
   # Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.   Now extubated and improving.
   - Continue Vanc/CTX x 8 days ([**11-11**] last day)
   - Wean O2
   - Atrovent for asthma. Holding albuterol given RVR
   # ARF: Likely prerenal from diuresis and loss of atrial kick.  Now
   improving.
   - Follow creatinine
   - Mucomyst prior to cath
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21, now trending down.
   Could be demand ischemia or ACS.
   - Cont [**Month/Year (2) 119**], statin, plavix, BB, ACEi
   - Titrate BB to HR ~60, captopril to goal SBP ~110
   - Cath deferred given ARF and ongoing medical issues, now may get cath
   tomorrow
   # CHF: mild volume overloaded with cardiogenic pulmonary edema
   - Start ACE-I now that ARF improving (wean off CCB), continue BB
   - Resume IV diuretics, goal ~1L negative/24hrs
   ICU Care
   Nutrition: PO cardiac diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT: Hep sq
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU vs. CCU while temp wire in
   Total time spent: 20min

2131-11-10 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   metoprolol increased to 50 tid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-11-9**] 09:14 AM
   Ceftriaxone - [**2131-11-9**] 12:47 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-11-9**] 07:19 PM
   Pantoprazole (Protonix) - [**2131-11-10**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Flowsheet Data as of  [**2131-11-10**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 77 (64 - 92) bpm
   BP: 148/62(73) {111/44(62) - 148/69(81)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 70.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,226 mL
                                                                     10 mL
   PO:
                                                                    855 mL
             TF:
   IVF:
                                                                    371 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    280 mL
   Urine:
                                                                  1,055 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    171 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   9.6 g/dL
   123 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   27.9 %
   14.6 K/uL
        [image002.jpg]
                            [**2131-11-6**]  11:23 PM
                            [**2131-11-7**]  04:07 AM
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
   WBC
   14.8
   15.0
   11.8
   14.6
   Hct
   25.0
   24.5
   29.3
   29.5
   27.0
   24.7
   30.4
   27.8
   27.9
   Plt
   176
   180
   143
   144
   Cr
   1.9
   1.4
   1.2
   1.2
   1.1
   TropT
   2.85
   Glucose
   143
   108
   123
   118
   123
   Other labs: PT / PTT / INR:12.9/71.6/1.1, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now s/p NSTEMI and temp pacer for episode of
   complete heart block.
   # Respiratory Distress/ PNA:  resolving.  Pt initially treated for RLL
   PNA seen on CXR and CTA with vanco, zosyn. Switched to CTX, vanco,
   levofloxacin here. Levoflox subsequently stopped for prolonged QT. Pt
   extubated and re-intubated soon after when she developed severe
   wheezing and new onset pulm edema (suggesting possible cardiogenic
   source also). Flu swab negative. Sputum gram stain growing GPCs in
   pairs, but no culture or speciation. Currently successfully extubated
   -- Day 6 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging, based on CTA appearance, low suspicion for
   atyicals
   -- f/u blood cultures
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- consider CPAP if pulmonary edema returns as it did at the time of
   last extubation
   # Leukocytosis: Marked increase. WBC had been 10 for 4 days, up to 20,
   now down to 14. It would be surprising if this were from her PNA as
   respiratory status and CXR improved. C diff negative. Will trend WBC.
   - f/u culture data
   # Heart Block: Temporary pacer placed with VVI 60.  Patient paced at 45
   bpm.   TEE negative for abscess. Lyme serology negative.  Per EP, will
   likely need permanent pacer, but needs c.cath first
   -- pacer rate decreased to 45 after discussion with EP fellow, avoiding
   AV nodal blocking agents per their recommendation; underlying rthyhm is
   sinus in mid 50s with PR 180.
   -- cont Metoprolol 37.5mg PO TID
   -- IV Metoprolol for HR>110
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin,
   ACEI;  IV heparin is off. Currently rate controlled.  Plan for cath is
   on hold, possibly [**Hospital 501**].
   -Cardiology may cath on [**Last Name (LF) 501**], [**First Name3 (LF) 124**] f/u recs
   .
   # HCT drop: HCT stable over 24 hours.  likely 2/2 L IJ oozing which has
   stopped. D/c-ed L IJ. Guaiac positive. Hemolysis labs negative.  HCT
   now 30 s/p transfusion
   -Active T&S
   -transfuse to keep HCT>25
   -daily hct
   .
   #Acute renal failure: continues to improve, Cr currently 1.2
   -follow chem. 7 daily
   -renally dose meds
   -avoid nephrotoxins
   .
   # Hypothyroidism: synthroid dose =137mcg
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol, renally dosed
   # FEN: replete lytes prn / Cardiac diet
   # PPX: H2 blocker, sqh, bowel regimen
   # ACCESS: right introducer, Left IJ, a-line
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU until temp wire can be removed
   ------ Protected Section Addendum Entered By:[**Name (NI) 6721**] [**Name8 (MD) 6722**], MD
   on:[**2131-11-10**] 08:09 ------
   ABOVE NOTE SIGNED BEFORE EDITING, PLEASE NOTE FOLLOWING CHANGES:
   --today is d 7 of 8 of CAP covg
   --increase captopril to 12.5 tid with goal SBP~110.
   --will not increase metoprolol prior to permanent pacer placement next
   week
   --NPO p MN on sunday for possible PM placemet on [**Year (4 digits) 501**] if no
   leukocytosis
   --40 IV lasix x1 with goal out 1-1.5 L ad crackles notable at bases
   bilaterally
   --pull foley and rpt UA/UCX
   --intensify bowel regimen
   --remainder of plan as above unless otherwise stated
   ------ Protected Section Addendum Entered By:[**Name (NI) 6721**] [**Name8 (MD) 6722**], MD
   on:[**2131-11-10**] 11:44 ------

2131-11-11 06:46:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   Decreased metoprolol to 37.5 per EP recs
   EP plans for pacemaker on [** **] as long as WBC not rising
   WBC continues to rise
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-10**] 12:17 PM
   Vancomycin - [**2131-11-10**] 12:45 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-11-10**] 10:16 AM
   Pantoprazole (Protonix) - [**2131-11-10**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2131-11-10**] 10:19 PM
   Metoprolol - [**2131-11-11**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-11**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 104 (67 - 104) bpm
   BP: 105/53(63) {105/39(56) - 147/71(88)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 70.5 kg
   Height: 62 Inch
                  Total In:
                                                                    880 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                    280 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    340 mL
   Urine:
                                                                  2,650 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,770 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   9.2 g/dL
   115 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   21 mg/dL
   103 mEq/L
   141 mEq/L
   26.9 %
   16.0 K/uL
        [image002.jpg]
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
   WBC
   15.0
   11.8
   14.6
   16.0
   Hct
   29.3
   29.5
   27.0
   24.7
   30.4
   27.8
   27.9
   27.3
   26.9
   Plt
   180
   143
   144
   163
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   TropT
   2.85
   Glucose
   108
   123
   118
   123
   115
   Other labs: PT / PTT / INR:14.1/97.3/1.2, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %,
   Fibrinogen:560 mg/dL, Lactic Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Microbiology: [**11-10**] Urine culture pending
   [**11-7**] C diff negative
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   76 yo f with history of CAD s/p CABG x 4, HTN, Asthma who was
   transferred from [**Hospital 17**] Hospital for management of respiratory
   distress/Pneumonia, now s/p NSTEMI and temp pacer for episode of
   complete heart block.
   # Respiratory Distress/ PNA:  resolving.  Pt initially treated for RLL
   PNA seen on CXR and CTA with vanco, zosyn. Switched to CTX, vanco,
   levofloxacin here. Levoflox subsequently stopped for prolonged QT. Pt
   extubated and re-intubated soon after when she developed severe
   wheezing and new onset pulm edema (suggesting possible cardiogenic
   source also). Flu swab negative. Sputum gram stain growing GPCs in
   pairs, but no culture or speciation. Currently successfully extubated
   -- Day 6 of 8: Vanco, CTX, hold on atypical covg for now as azithro
   would also be QT prolonging, based on CTA appearance, low suspicion for
   atyicals
   -- f/u blood cultures
   -- continue albuterol/atrovent PRN wheezing for asthma/COPD
   -- consider CPAP if pulmonary edema returns as it did at the time of
   last extubation
   # Leukocytosis: Marked increase. WBC had been 10 for 4 days, up to 20,
   now down to 14. It would be surprising if this were from her PNA as
   respiratory status and CXR improved. C diff negative. Will trend WBC.
   - f/u culture data
   # Heart Block: Temporary pacer placed with VVI 60.  Patient paced at 45
   bpm.   TEE negative for abscess. Lyme serology negative.  Per EP, will
   likely need permanent pacer, but needs c.cath first
   -- pacer rate decreased to 45 after discussion with EP fellow, avoiding
   AV nodal blocking agents per their recommendation; underlying rthyhm is
   sinus in mid 50s with PR 180.
   -- cont Metoprolol 37.5mg PO TID
   -- IV Metoprolol for HR>110
   # NSTEMI: likely due to poorly controlled rate in the setting of very
   significant obstructive CAD. Cannot rule out plaque rupture with
   Cardiac enzymes this significant.  On ASA, plavix, high dose statin,
   ACEI;  IV heparin is off. Currently rate controlled.  Plan for cath is
   on hold, possibly [**Hospital 501**].
   -Cardiology may cath on [**Last Name (LF) 501**], [**First Name3 (LF) 124**] f/u recs
   .
   # HCT drop: HCT stable over 24 hours.  likely 2/2 L IJ oozing which has
   stopped. D/c-ed L IJ. Guaiac positive. Hemolysis labs negative.  HCT
   now 30 s/p transfusion
   -Active T&S
   -transfuse to keep HCT>25
   -daily hct
   .
   #Acute renal failure: continues to improve, Cr currently 1.2
   -follow chem. 7 daily
   -renally dose meds
   -avoid nephrotoxins
   .
   # Hypothyroidism: synthroid dose =137mcg
   # Gout: holding colchicine in setting of ARF
   -continue allopurinol, renally dosed
   # FEN: replete lytes prn / Cardiac diet
   # PPX: H2 blocker, sqh, bowel regimen
   # ACCESS: right introducer, Left IJ, a-line
   # CODE: Full CODE
   # CONTACT:  Daughter Ido: [**Telephone/Fax (1) 9834**]
   # DISPO: ICU until temp wire can be removed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2131-11-3**] 09:44 PM
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-11-11 07:54:00 Physician Attending Progress Note
Chief Complaint: PNA, NSTEMI
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 9976**], ICU fellow, for the key portions of the services provided. I
   agree with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   HPI:
    See HPI
   24 Hour Events:
   - Temp wire d/c
d by EP this AM
   - IV lopressor x2 for tachycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2131-11-10**] 12:17 PM
   Vancomycin - [**2131-11-10**] 12:45 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-11-10**] 10:16 AM
   Pantoprazole (Protonix) - [**2131-11-10**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2131-11-10**] 10:19 PM
   Other medications:
   ASA 325, Lipitor, Plavix, synthroid, Atrovent nebs, Amlodipine,
   Allopurinol, Captopril, colace, metoprolol, ativan x1
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-11-11**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 104 (67 - 104) bpm
   BP: 105/53(63) {105/39(56) - 144/71(88)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.4 kg (admission): 70.5 kg
   Height: 62 Inch
                  Total In:
                                                                    880 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                    280 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    340 mL
   Urine:
                                                                  2,650 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,770 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: RA
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: palpable), (Left radial
   pulse: palpable), (Right DP pulse: palpable), (Left DP pulse: palpable)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilaterally)
   Skin:  No rashes
   Neurologic: Attentive, A&Ox3
   Labs / Radiology
   9.2 g/dL
   163 K/uL
   115 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   21 mg/dL
   103 mEq/L
   141 mEq/L
   26.9 %
   16.0 K/uL
        [image002.jpg]
                            [**2131-11-7**]  12:20 PM
                            [**2131-11-7**]  01:05 PM
                            [**2131-11-7**]  03:58 PM
                            [**2131-11-7**]  07:50 PM
                            [**2131-11-8**]  03:42 AM
                            [**2131-11-8**]  04:54 PM
                            [**2131-11-9**]  03:20 AM
                            [**2131-11-10**]  04:49 AM
                            [**2131-11-10**]  09:16 PM
                            [**2131-11-11**]  03:24 AM
   WBC
   15.0
   11.8
   14.6
   16.0
   Hct
   29.3
   29.5
   27.0
   24.7
   30.4
   27.8
   27.9
   27.3
   26.9
   Plt
   180
   143
   144
   163
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   TropT
   2.85
   Glucose
   108
   123
   118
   123
   115
   Other labs: PT / PTT / INR:14.1/97.3/1.2, CK / CKMB /
   Troponin-T:150/6/2.85, ALT / AST:36/119, Alk Phos / T Bili:77/0.3,
   Differential-Neuts:94.5 %, Lymph:2.9 %, Mono:2.4 %, Eos:0.1 %,
   Fibrinogen:560 mg/dL, Lactic Acid:1.1 mmol/L, LDH:517 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Lyme Negative
   C Diff Negative
   CXR
 Without obvious infiltrate or effusion
   Assessment and Plan
   76F with h/o asthma with prior intubation and CAD s/p CABG p/w
   respiratory failure requiring intubation (now extubated), intermittent
   heart block (including CHB) requiring pacing wire, intermittent Afib
   RVR, elevated cardiac biomarkers, reduced EF of unknown chronicity,
   possible asthma exacerbation and RLL PNA.
   # Leukocytosis: Unclear etiology, peak WBC 20, now 16.
   - Completed Vanco/CTX x8 days as of [**11-11**]
   - Repeat UA/Ucx, CXR, sputum
   - D/c foley
   #Arrhythmias: Intermittent CHB with temp wire, intermittently paced,
   largely in Afib.
   - Continue temp wire d/c
d by EP [**11-11**], but needs permanent pacemaker,
   EP is deferring until WBC count nl
   - Continue lopressor for a fib, goal HR is ~60 but now that temp wire
   is d/c
d, will hold off on aggressive beta-blockade
   - Discuss transfer to C-MED now that temp wire is d/c
   # Respiratory failure: Likely a combination of RLL PNA, asthma
   exacerbation and cardiogenic pulmonary edema. Possible mild upper
   airway obstruction.   Now extubated and improving.
   - Vanc/CTX x 8 days ([**11-11**] last day)
   - On RA
   - Atrovent for asthma. Holding albuterol given RVR
   # ARF: Likely prerenal from diuresis and loss of atrial kick.  Now
   improving.
   - Follow creatinine
   - Mucomyst prior to cath
   #NSTEMI: elevated cardiac biomarkers to TnI 7.21, now trending down.
   Could be demand ischemia or ACS.
   - Cont ASA, statin, plavix, BB, ACEi
   - Titrate BB to HR ~60, captopril to goal SBP ~110
   - Cath deferred given ARF and ongoing medical issues, may still need
   cath at some point
   # CHF: mild volume overloaded with cardiogenic pulmonary edema
   - Start ACE-I now that ARF improving (wean off CCB), continue BB
   - Resume IV diuretics, goal ~1L negative/24hrs
   ICU Care
   Nutrition: Oral cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-11-7**] 07:48 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To C-MED team